US07304103B2
4-tert-Butylbenzenediazonium tetrafluoroborate (4).
The 4-tert-butylaniline was dissolved in a 1:1 mixture of acetonitrile and dry methylene chloride prior to addition to the nitrosonium tetrafluoroborate. Yield: 78%. MP 91° C. IR (KBr) 3364.8, 3107.3, 2968.6, 2277.2, 1579.2, 1482.0, 1418.0, 1373.5, 1269.8, 1056.9, 841.1, 544.6, 621.4 cm−1. 1H NMR (400 MHz, CD3CN) δ 8.16 (ABq, J=9.0 Hz, Δv=298.7 Hz, 4H), 1.30 (s, 12H). 13C NMR (100 MHz, CD3CN) δ 168.85, 133.67, 130.43, 111.88, 37.86, 30.84.

reactant | 4-tert-butylaniline | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | nitrosonium tetrafluoroborate | F[B-](F)(F)F.N#[O+]
reactant | KBr | [K+].[Br-]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-tert-Butylbenzenediazonium tetrafluoroborate | Yield: 78% | F[B-](F)(F)F.C(C)(C)(C)C1=CC=C(C=C1)[N+]#N | InChI=1S/C10H13N2.BF4/c1-10(2,3)8-4-6-9(12-11)7-5-8;2-1(3,4)5/h4-7H,1-3H3;/q+1;-1
